US03935311
5-Methoxycarbonyloxymethyl-2-methyl-3-pyridinol (No. 87)
A solution of 1 g. of 3-methoxycarbonyloxy-5-methoxycarbonyloxymethyl-2-methylpyridine in an aqueous ethanol (10 ml. of ethanol and 5 ml. of water) was adjusted to pH 1-1.5 with 10% hydrobromic acid. The mixture was heated at 90°C for 30 minutes, then cooled and neutralized with sodium bicarbonate and extracted with ethyl acetate. The extract was dried over anhydrous sodium sulfate and concentrated into a small volume and the addition of n-hexane gave 0.45 g. of the desired product as colorless crystals melting at 187°-189°C, which showed no depression of melting point on admixture with the authentic sample and the IR spectrum coincided with that of the standard completely.

reactant | 3-methoxycarbonyloxy-5-methoxycarbonyloxymethyl-2-methylpyridine | COC(=O)OC=1C(=NC=C(C1)COC(=O)OC)C | C11H13NO6
reactant | hydrobromic acid | Br | BrH
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 5-Methoxycarbonyloxymethyl-2-methyl-3-pyridinol | COC(=O)OCC=1C=C(C(=NC1)C)O | C9H11NO4
